US05958910
A mixture of 0.5 g of 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide with 0.36 g of 4-isopropylbenzenesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 25 ml of 1N hydrochloric acid and the organic phase was separated and dissolved in a mixture of 20 ml of ethanol and 20 ml of 2N sodium hydroxide solution. After the addition of 0.5 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. The product separated as an oil upon neutralization. Thereupon, the mixture was boiled with 0.5 g of active charcoal and the active charcoal and insoluble constituents were filtered off. Crystals separated upon cooling and, after recrystallization from 40 ml of 50% ethanol, yielded 0.17 g of 4-isopropyl-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide as colourless crystals.

reactant | 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.[N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N
reactant | 4-isopropylbenzenesulfonyl chloride | 0.36 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | hydrochloric acid | 1N, 25 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 4-isopropyl-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide | 0.17 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C18H17N3O4S2
